US06294558B1
3-Fluoro-4-(methylsulfonyl)aniline
A mixture of 3-fluoro-4-(methylsulfonyl)nitrobenzene (8 g, 36.5 mmol), iron powder (22 g, 394 mmol), and acetic acid (0.3 mL) in water (200 mL) was heated at 95° C. for 3 hours. After cooling, insolubles were filtered off by Celite. The filtrate was extracted with ethyl acetate (200 mL×2), the combined organic layer washed with water, brine, dried over MgSO4, and concentrated in vacuo. Chromatographic purification of the residue eluting with ethyl acetate/hexane (1/1) provided the subtitle compound (6.2 g, 90% yield).

reactant | 3-fluoro-4-(methylsulfonyl)nitrobenzene | 36.5 mmol, 8 g | FC=1C=C(C=CC1S(=O)(=O)C)[N+](=O)[O-] | C7H6FNO4S
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
catalyst | iron | 394 mmol, 22 g | [Fe] | Fe
product | 3-Fluoro-4-(methylsulfonyl)aniline | 6.2 g, 90% yield | FC=1C=C(N)C=CC1S(=O)(=O)C | C7H8FNO2S
